US09447070B2
A mixture of 4-(ethylthio)benzoic acid (0.26 g, 1.4 mmol) and CDI (0.24 g, 1.5 mmol) in DMF (30 ml) was stirred at 40° C. for 4 hours. 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) was added and the mixture was stirred at 40° C. for 2 h. 4% Aqueous HCl (30 mL) was added and the resulting precipitate was filtered, washed with water (30 mL) and dried in vacuo providing N-([2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethylsulfanyl-benzamide as a white solid, (0.39 g, 66% yield); mp 217-219° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 35/65 CH3CN/0.1% H3PO4, 5.75 (99.03%); 1H NMR (DMSO-d6) δ 1.26 (t, 3H, J=7.2 Hz), 1.97-2.01 (m, 1H), 2.03-2.45 (m, 1H), 2.57-2.62 (m, 1H), 2.85-2.97 (m, 1H), 3.05 (q, 2H, J=7.2 Hz), 4.30 (d, 1H, J=17.4 Hz), 4.44 (d, 1H, J=17.4 Hz), 4.58 (d, 1H, J=7.8 Hz), 5.11 (dd, 1H, J=13.2 Hz, J=5.1 Hz), 7.37 (d, 2H, J=8.4 Hz), 7.46 (d, 1H, J=7.8 Hz), 7.53 (s, 1H), 7.69 (d, 1H, J=7.8 Hz), 7.85 (d, 2H, J=8.7 Hz), 9.12 (t, 1H, J=5.7 Hz), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 13.9, 22.5, 25.2, 31.2, 42.7, 47.1, 51.5, 122.0, 122.9, 126.3, 127.0, 127.8, 130.3, 130.6, 140.9, 142.3, 143.9, 165.7, 167.9, 170.9, 172.8; LCMS: MH=438; Anal. Calcd for C23H23N3O4S: C, 62.37; H, 5.37; N, 9.49. Found: C, 62.30; H, 5.29; N, 9.60.

reactant | 4-(ethylthio)benzoic acid | 1.4 mmol, 0.26 g | C(C)SC1=CC=C(C(=O)O)C=C1 | C9H10O2S
reactant | CDI | 1.5 mmol, 0.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | HCl | 30 mL | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethylsulfanyl-benzamide | 66% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CC1=C(C(=O)N)C=CC(=C1)SCC)=O)=O | C23H23N3O4S
